2160-05-24 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2160-5-23**] 08:00 AM
   -s/p AFlutter ablation -> off pressors, MAPs 60s, Fick 7.3/3.3/634;
   PAPm down from 44 to 21
   -Impella still at P6, flow 2.2L/min
   -Hct stable from MN, down 4% from yesterday, now 34.7
   - Received 500 IV diuril, I/O=-1.5L
   - Cre 6.3. FeUrea 52.85% --> likely ATN.
   -Vent on 40%
   - renal recs: "by numbers does not look like he has any urgent need for
   dialysis"
   - repeat echo: LV slightly less dilated, EF slightly up still 10-20%
   - CXR: worsening atelectasis, swan in R upper lobe pulm artery --->
   - on D20 for nutrition
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 500 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-5-23**] 09:00 AM
   Metoprolol - [**2160-5-23**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-24**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 81 (74 - 141) bpm
   BP: 92/53(64) {85/51(61) - 110/85(93)} mmHg
   RR: 16 (0 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 11 (11 - 25)mmHg
   PAP: (30 mmHg) / (15 mmHg)
   CO/CI (Thermodilution): (4.24 L/min) / (1.9 L/min/m2)
   CO/CI (Fick): (7.3 L/min) / (3.3 L/min/m2)
   SVR: 1,377 dynes*sec/cm5
   Mixed Venous O2% Sat: 56 - 73
   SV: 31 mL
   SVI: 14 mL/m2
   Total In:
                                                                  2,072 mL
                                                                    754 mL
   PO:
   TF:
   IVF:
                                                                  2,072 mL
                                                                    754 mL
   Blood products:
   Total out:
                                                                  4,230 mL
                                                                    210 mL
   Urine:
                                                                  3,980 mL
                                                                    185 mL
   NG:
                                                                    250 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,158 mL
                                                                    544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.34/44/108/23/-2
   Ve: 11 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   67 K/uL
   11.9
   213 mg/dL
   6.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   106 mg/dL
   92 mEq/L
   130 mEq/L
   34.7 %
   18.5 K/uL
        [image002.jpg]
                             [**2160-5-23**]  06:26 AM
                             [**2160-5-23**]  06:40 AM
                             [**2160-5-23**]  11:26 AM
                             [**2160-5-23**]  01:29 PM
                             [**2160-5-23**]  03:49 PM
                             [**2160-5-23**]  09:25 PM
                             [**2160-5-23**]  11:00 PM
                             [**2160-5-24**]  01:49 AM
                             [**2160-5-24**]  05:55 AM
                             [**2160-5-24**]  06:19 AM
   WBC
   23.6
   21.3
   22.2
   18.5
   Hct
   38.7
   40
   37.2
   40
   37.4
   34.7
   34.7
   Plt
   121
   99
   104
   82
   67
   Cr
   4.3
   4.8
   5.3
   6.3
   TropT
   0.75
   TCO2
   25
   24
   25
   Glucose
   154
   146
   187
   213
   Other labs: PT / PTT / INR:18.2/44.3/1.6, CK / CKMB /
   Troponin-T:524/7/0.75, ALT / AST:2204/1808, Alk Phos / T Bili:115/7.7,
   Amylase / Lipase:58/21, Differential-Neuts:87.9 %, Band:0.0 %,
   Lymph:6.4 %, Mono:5.0 %, Eos:0.6 %, Fibrinogen:170 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:3.4 g/dL, LDH:4610 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SHOCK, CARDIOGENIC
   A/P: 60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock
   and rapid Aflutter now s/p AF ablation and with impella device.
   #CORONARIES: Likely non-ischemic cardiomyopathy
   - holding ASA given plts and bleeding
   - holding statin given LFT
   - holding BB
   #PUMP: LV slightly less dilated and EF slightly improved with impella
   per echo yesterday. Responding well to diuril/lasix, -1.5L
   - holding diuril, cont lasix gtt. Will monitor I/O this PM consider
   increasing gtt
   - will discuss with renal regarding diuresis
   - Monitor hemodynamics
   #RHYTHM: s/p ablation. NSR in 80s
   - Monitor on tele
   - cont Heparin IV for impella
   - f/u post-ablation CXR
   #Renal Failure: Likely ATN given FeUrea >50%
   - Renal recs
   - Diuresis as tolerated
   - Monitor Cre
   - Monitor lytes: Po4 7.1, Na 130, K3.7, AG 19 but pH 7.34
   #Thrombocytopenia: Trending down, 104->82->67.
   - Watch for petechiae, signs of bleeding
   - Hct stable so far
   - cont to trend plt, no indication for tranfusion.
   #Respiratory Failure:  7.34/44/108/25. Stable, will cont current
   setting.
   #Leukocytosis: Trending down, 22.2 -> 18.5. Still afebrile.
   - Monitor for signs of infection
   - f/u CXR today
   #LFTs: Improving: 1808/2204. Likely secondary to shocked liver
   - cont to trend
   - monitor hemolysis labs
   - fractionate bili
   #FEN: On D20 for calories, Reconsult nutrition re: tube feeds; replete
   electrolytes as needed, but no K given renal failure.
   #PPx: Heparin, bowel reg, PPI
   CODE: presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2160-5-22**] 06:00 PM
   PA Catheter - [**2160-5-22**] 06:00 PM
   Arterial Line - [**2160-5-22**] 06:00 PM
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Ablation of Aflutter yesterday restored NSR but this AM back in SVT at
   160.  EP involved in efforts to restore NSR with cardioversion
   (unsuccessful) and beta blocker, dig and pronestyl planned.
   Impella now at P6 with good hemodynamics, PA 30/15, when in NSR with no
   need for Neo but significant problems with worsening renal failure with
   Cr 6.3 and significant hemolysis with incr bili.  Overall other LFTs
   better.   Good urine output yesterday, but decr again today.
   Repeat echo results noted with decr LV size on Impella with some
   improvement in EF.
   Physical Examination
   warm extremities, no frank bleeding from groin site
   Medical Decision Making
   Focus of efforts to restore NSR.
   Continue lasix drip.
   Consider decr Impella performance level when back in NSR in effort to
   reduce hemolysis and ?plt consumption.
   Appreciate renal followup.
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-5-24**] 10:30 ------

2160-05-25 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2160-5-24**] 10:13 AM
   x 1 with 100 joules - to SR briefly - 50 joules X1 w/o success
 CARDIOVERSION/DEFIBRILLATION - At [**2160-5-24**] 05:32 PM
 PAN CULTURE - At [**2160-5-25**] 01:12 AM
   -Event in AM: spontaneously restarted rapid AF/flutter to 170. Shock@
   100J returned him to NSR in 70s for about 1 minute, then returned to
   tachycardia. 50J shock had no effect. Decided to proceed with
   procainamide 500 mg bolus +/- another 100J shock, as well as dig
   loading and 12.5mg PO lopressor tid. BP remained stable throughout.
   - Pt reverted back to AF/flutter and procainamide 500 IVx1 was given
   again w/ procainamide gtt - did not convert patient
   - Then tried cardioverting again 1hr after being on proc gtt around
   5pm--> pt back to NSR since then in 70s
   - Dig level therapeutic 1.4
   - At 8pm pt +2L, CVP unchanged, but renal fxn worsened Cr incr from 6.3
   to 7.0. Pt's MAP was 55-60 throught the day. Restarted Neo, and
   increased diuresis- lasix gtt back to 15mg/h with bolus lasix 120mg IV
   x1
   - Hemolysis labs showed haptoglobin < 20 c/w hemolysis. Shock liver
   also contributing since DB was only 4.0 of Total 7.7.
   - Pt's Cr at 11pm check up from 6.3 to 7.1. Also pt was +2L, no change
   in recorded CVP 11 or PAP 34. Since MAPs 55-60, and lasix gtt was
   decreased in AM ---> restarted lasix gtt w/ 120 IV bolus and increased
   back to 15ml/h.
   - At 1am total UOP since starting lasix only 15cc total. --> stopped
   lasix all together since pt in ATN and not being effected by lasix.
   - WBC also incr to 29 -> sent blood cx x2, and c.diff sample whenever
   he stools
   - replaced Ca (free 1.09)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Procainamide - 2 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2160-5-24**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-25**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 77 (69 - 153) bpm
   BP: 90/54(67) {64/49(56) - 110/78(84)} mmHg
   RR: 24 (2 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
    CVP: 13 (9 - 15)mmHg
   PAP: (43 mmHg) / (16 mmHg)
   CO/CI (Fick): (9 L/min) / (4 L/min/m2)
   Mixed Venous O2% Sat: 70 - 82
   Total In:
                                                                  2,991 mL
                                                                    902 mL
   PO:
   TF:
   IVF:
                                                                  2,811 mL
                                                                    902 mL
   Blood products:
   Total out:
                                                                    387 mL
                                                                     20 mL
   Urine:
                                                                    362 mL
                                                                     20 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  2,604 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.33/44/109/23/-2
   Ve: 11.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   66 K/uL
   11.0 g/dL
   141 mg/dL
   7.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   121 mg/dL
   90 mEq/L
   127 mEq/L
   33.3 %
   34.7 K/uL
        [image002.jpg]
                             [**2160-5-23**]  11:00 PM
                             [**2160-5-24**]  01:49 AM
                             [**2160-5-24**]  05:55 AM
                             [**2160-5-24**]  06:19 AM
                             [**2160-5-24**]  10:24 AM
                             [**2160-5-24**]  10:34 AM
                             [**2160-5-24**]  04:36 PM
                             [**2160-5-24**]  04:55 PM
                             [**2160-5-24**]  11:37 PM
                             [**2160-5-25**]  05:18 AM
   WBC
   22.2
   18.5
   18.8
   20.0
   29.9
   34.7
   Hct
   34.7
   34.7
   32.8
   33.6
   35
   33.7
   33.3
   Plt
   82
   67
   64
   61
   68
   66
   Cr
   5.3
   6.3
   6.3
   7.0
   7.1
   7.6
   TropT
   1.21
   TCO2
   25
   24
   24
   Glucose
   [**Telephone/Fax (3) 8184**]48
   141
   Other labs: PT / PTT / INR:16.3/51.8/1.4, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:1488/817, Alk Phos / T Bili:117/8.3,
   Amylase / Lipase:58/21, Differential-Neuts:87.9 %, Band:0.0 %,
   Lymph:6.4 %, Mono:5.0 %, Eos:0.6 %, Fibrinogen:187 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:3955 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SHOCK, CARDIOGENIC
   A/P: 60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock
   and rapid Aflutter now s/p AF ablation and with impella device.
   #PUMP/Hemodynamics: currently not in shock, good perfusion to LE. Pt
   CI 4, and CO 9L/min currently hyperdynamic. Pt also has ASD but step up
   was mild 75-> 80, and thermodilution CO correlated with Fick equation.
   Although WBC elevated and incr CO do not believe pt septic as pt has
   normal SVR. Pt
s currently has low PA diasystolic pressure suggesting
   low preload.
   -  titrated down performance level of impella and still has good CO
   -  new echo prelim shows normal EF
 will f/u final read
   -  will take out impela today
 pt likely had low preload from impella
   ejecting blood on top of normal CO
   -  consulting Dr. [**First Name (STitle) **] re: ?cardiac biopsy from having acute CHF
   rising WBC that was responsive to steroids, so far Dr. [**First Name (STitle) **] believes
   pt has combination of mixed picture
 chronic CHF from mild CAD, and
   acute CHF from unknown reason
   -  will keep goal I/O even today
   #RHYTHM: s/p ablation. Pt in AF/flutter yesterday s/p DCCV and
   procainamide. Currently in NSR
   - per EP pt did not receive proper loading dose
 will give another
   proc 500 IV x1
   - will check procainamide level
   - obtain EKG since getting anti-arrhythmic
   # CORONARIES: Likely non-ischemic cardiomyopathy, CAD mild - 1V dz of
   RCA
   - holding ASA given plts and bleeding, holding statin given LFT,
   holding BB
   #  Leukocytosis- rising WBC from 18
 29
 34. Pt afebrile. Overnight
   when WBC found to be 29. Pt does not have obvious source of infection.
   One thought is that pt may have had acute myocarditis causing dilated
   cardiomyopathy that is steroid responsive. Since pt received steroids
   at OSH for thought to be COPD and stopped steroids here, it could be
   possible that steroids decreased WBC and not that steroids out of
   system WBC now coming up. Pt did have abx at OSH and Cdiff possibility
   checked blood cx x2, and ordered c.diff.
   - will CIS
   - KUB for e/o toxic megacolon
   - sending UA/Ucx
   - assess for VAP with new CXR
   # Acute Renal Failure: ATN given FeUrea >50%. Since pt
s shock liver
   improving and good MAPs not the case that pt has low renal perfusion.
   Lasix will not help while in ATN
   - no further lasix, or IVF currently to keep IVF even while in ATN
   - will need diuresis
 Renal will place dialysis line via IR tomorrow
   - NPO p MN
   #Anemia/Thrombocytopenia: Pt has component of hemolysis [**1-14**] impella as
   hapto<20. Plts stable in 60s now.  Will need plts >50 for procedure
   tomorrow, otherwise transfuse if plt <20. Anemia has hemolysis
   component, stable, transfuse if < 21.
   - Watch for petechiae, signs of bleeding
   - Hct stable so far
   # Shock liver- AST/ALT cont to improve. Now that pt has good perfusion
   expect recovery
   - cont to trend LFTs
   #Respiratory Failure:  7.34/44/108/25. Stable, unchanged vent settings
   over last 24h
   - if continues to improve may try to wean as tolerated
   # Mental status- off sedation now, not responsive. Papillary reflex
   intact. In setting of Liver and Renal failure pt
s poor mental status
   likely due to decr metabolism/excretion of sedating drugs
   - continue to moniter, minimize further sedating meds
   #FEN: On D20 for calories, Reconsult nutrition re: tube feeds; replete
   electrolytes as needed, but no K given renal failure.
   #PPx: Heparin, bowel reg, PPI
   CODE: presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2160-5-22**] 06:00 PM
   PA Catheter - [**2160-5-22**] 06:00 PM
   Arterial Line - [**2160-5-22**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I agreed with the comprehensive progress note as outlined by Dr.
   [**Last Name (STitle) 6076**] on [**2160-5-25**].   I concur with the documentation of the 24
   hour history.  The physical examination is consistent with my
   examination and the assessment and management describe our plans over
   the next 24 hours.  Mr. [**Name13 (STitle) 8187**] is a 60 year old man who presented with
   a new cardiomyopathy (LVEF = 0.15-0.20) as a transfer from [**Hospital 1200**]
   Hospital on [**2160-5-22**] in persistent cardiogenic shock despite
   pressor support.    Cardiac catheterization showed coronary artery
   disease but reduced left ventricular function was out of proportion of
   the LV dysfunction.  An Abiomed Impella 2.5 device was placed for
   hemodynamic support.  Over the past 24 hours, there has been recurrent
   atrial flutter treated with procainamide but there has also been marked
   improvement of his left ventricular function. His PAD are running 14-15
   mmHg.   His dig level is 3.9.  Given the improvement in his cardiac
   output, we will discontinue the Abiomed device as soon a possible.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] x20958
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2160-5-25**] 14:16 ------

2160-05-26 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ECHO showed improved systolic fct. Impella removed.
   -Attg placed groin cortis
   -1.5L positive--given low filling pressure we did not attempt to
   diurese
   -Dig level came back at 3.7. Will hold all dig for now.
   -Proc level (pre-bolus): 9.1, NAPA:8
   -Renal: plan for dialysis line plcmt by IR. IR ok with current plt
   level.
   -Starting prednisone 60mg daily for ?giant cell myocarditis
   -Heparin gtt stopped at 0530 in anticipation of IR procedure
   -Worsening hyponatremia 121 this AM, likely hypervolemic; re-checking
   lab and considering hypertonic saline
   -Plt, Hct level improved since impela removal
   -WBC continues to rise, now 46.2; bcx g+cocci in clusters, ET budding
   yeast with pseudohyphae
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-26**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 79 (73 - 81) bpm
   BP: 105/42(58) {87/39(50) - 109/57(69)} mmHg
   RR: 20 (0 - 223) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
    CVP: 11 (9 - 12)mmHg
   PAP: (12 mmHg) / (8 mmHg)
   CO/CI (Fick): (9 L/min) / (4 L/min/m2)
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                  2,100 mL
                                                                    213 mL
   PO:
   TF:
   IVF:
                                                                  1,860 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                     15 mL
   Urine:
                                                                    190 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 518 (518 - 518) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: sedated, intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present). Right
   groin cortis in place, site soft, non-tender without hematoma.
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Lower extremities cool. Right: 1+, Left: 1+
   Skin:  Not new lesions
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   104 K/uL
   10.9 g/dL
   148 mg/dL
   9.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   137 mg/dL
   85 mEq/L
   125 mEq/L
   32.2 %
   46.2 K/uL
        [image002.jpg]
                             [**2160-5-24**]  10:24 AM
                             [**2160-5-24**]  10:34 AM
                             [**2160-5-24**]  04:36 PM
                             [**2160-5-24**]  04:55 PM
                             [**2160-5-24**]  11:37 PM
                             [**2160-5-25**]  05:18 AM
                             [**2160-5-25**]  10:57 AM
                             [**2160-5-25**]  11:17 AM
                             [**2160-5-25**]  04:19 PM
                             [**2160-5-26**]  03:37 AM
   WBC
   18.8
   20.0
   29.9
   34.7
   32.3
   46.2
   Hct
   32.8
   33.6
   35
   33.7
   33.3
   30.9
   32
   32.2
   Plt
   64
   61
   68
   66
   62
   104
   Cr
   6.3
   7.0
   7.1
   7.6
   7.8
   8.5
   9.2
   TCO2
   24
   24
   Glucose
   194
   180
   148
   141
   177
   85
   148
   Other labs: PT / PTT / INR:16.5/37.6/1.4, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:1035/289, Alk Phos / T Bili:126/6.6,
   Amylase / Lipase:58/21, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:3.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:2185 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   A/P: 60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock
   and rapid Aflutter now s/p AF ablation and with impella device.
   #PUMP/Hemodynamics: ECHO yesterday am demonstrated sig improved EF
   (35-40%) likely [**1-14**] LV recovery with assistance of impella. Impella
   removed yesterday and patient has remained hemodynamically stable.
   However, cont to have worsening renal fct with oliguria. Per heart
   failure team recs we have started high dose steroids for concern of
   giant cell myocarditis
   - Discuss plan for high dose steroids with HF team. Also discuss any
   plans for bx.
   - Repeat an ECHO today
   - Plan for HD today which should improve volume status
   .
   #RHYTHM: s/p ablation. Loaded with another 500 mg of Procainamide
   yesterday. Has remained in stable sinus since load. Proc levels around
   9.1-9.7 and QRS stable. Plan to discuss starting proc gtt versus cont
   to bolus with EP. Will also cont lopressor TID.
   - f/u EP recs
   - follow proc levels- freq will depend on bolus vs gtt dosing of
   procainamide
   - follow [**Hospital1 7**] ECGs
   - holding hep gtt given line placement today. Will restart following
   line.
   .
   # CORONARIES: CAD mild - 1V dz of RCA
   - restart ASA since plt count up
   .
   # Positive Blood Cx: One out of four bottles positive for GPC
s in
   clusters from [**5-25**]. This likely represents line infection vs
   contaminant. Gave Vanc 1g last night.
   -f/u cx and sensitivites
   -dose vanc with HD
   -will need to change groin cortis
   .
   #  Leukocytosis: WBC ct cont to trend up and is now 46 though he
   remains afebrile. This is likely partially related to high dose
   steroids but given possible bacteremia this could be contributing
   factor. UA with many RBCs and 21 WBCs. CXR from [**5-25**] does show left
   upper lobe opacity.
   - cont Vancomycin for possible bacteremia
   - send sputum sample
   - will CIS
   - f/u urine cx
   .
   # Acute Renal Failure: Likely [**1-14**] ATN in setting of cardiogenic shock.
   Plan is for temporary HD line placement today and initiation of HD.
   - f/u renal recs
   #Anemia/Thrombocytopenia: Hct trending up 32.2 and plt count also
   trending up 62
104. Likely impella was contributing to hemolysis and
   plt shearing.
   - cont to monitor
   .
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure:  Stable, unchanged vent settings over last 24h.
   Will attempt to wean following procedure and HD today.
   .
   # Mental status- off sedation now, not responsive. Papillary reflex
   intact. In setting of Liver and Renal failure pt
s poor mental status
   likely due to decr metabolism/excretion of sedating drugs
   - continue to moniter, minimize further sedating meds
   #FEN: D20 stopped given extreme vol overload. Awaiting nutrition recs;
   #PPx: IV Heparin, bowel reg, PPI
   CODE: FULL
   Dispo: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7999**].
   I would add the following remarks:
   History
   Impella out yesterday after  improved EF on echo.
   Problems with worsening renal failure and renal following closely with
   insertion of HD catheter today.
   On Vanco for gram + cocci in blood.
   EP assisting in med adjustment to maintain NSR with Pronestyl and
   lopressor and Dig.
   LFTs improving.
   Now on Prednisone for possible giant cell myocarditis.
   Medical Decision Making
   Possible HD later today.
   Consider RV biopsy.  Will discuss with CHF service.
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-5-26**] 12:05 ------

2160-05-27 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2160-5-26**] 08:43 AM
 DIALYSIS CATHETER - START [**2160-5-26**] 12:09 PM
   - Renal placed left fem dialysis line
   - CVVH initiated
   - C. diff (pt hasn't had BM) and sputum ordered
   - heparin gtt restarted
   - ECHO: EF 30-35% without impella. Mild AS (1.6cm2), 2+MR, RV free wall
   motion is improved
   - EP recs: no more proc given ARF, no digoxin. EP will follow to
   determine long-term course.
   - KUB ordered: no obstruction
   - Vanco 11.2, re-dosed 1g vanco per hd protocol
   - Nutrition:  Tube feeding recommendations: Novasource Renal 10ml/hr,
   advance as tol to goal 47ml/hr (2256kcal/84g protein) --> elevated
   residuals stopped TF
   - pt off neo at 9pm
   - PM labs: Na 126, Cr 8.9 (improved)
   - Not pulling cortis tonight due to lack of other access. consider
   placing subclavian tomorrow.
   - now responsive, following verbal commands
   - withdraws from RUQ pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-5-26**] 06:13 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-5-26**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 34.8
C (94.7
   HR: 90 (62 - 90) bpm
   BP: 99/51(64) {98/39(55) - 116/52(67)} mmHg
   RR: 4 (2 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  1,470 mL
                                                                    926 mL
   PO:
             TF:
                                                                     22 mL
                                                                     44 mL
   IVF:
                                                                  1,208 mL
                                                                    882 mL
   Blood products:
   Total out:
                                                                  1,417 mL
                                                                  2,223 mL
   Urine:
                                                                     65 mL
                                                                     45 mL
   NG:
                                                                    230 mL
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                 -1,297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   104 K/uL
   10.9 g/dL
   171 mg/dL
   7.8 mg/dL
   19 mEq/L
   4.6 mEq/L
   126 mg/dL
   92 mEq/L
   126 mEq/L
   32.2 %
   46.2 K/uL
        [image002.jpg]
                             [**2160-5-24**]  04:55 PM
                             [**2160-5-24**]  11:37 PM
                             [**2160-5-25**]  05:18 AM
                             [**2160-5-25**]  10:57 AM
                             [**2160-5-25**]  11:17 AM
                             [**2160-5-25**]  04:19 PM
                             [**2160-5-26**]  03:37 AM
                             [**2160-5-26**]  12:46 PM
                             [**2160-5-26**]  08:18 PM
                             [**2160-5-27**]  01:42 AM
   WBC
   29.9
   34.7
   32.3
   46.2
   Hct
   35
   33.7
   33.3
   30.9
   32
   32.2
   Plt
   68
   66
   62
   104
   Cr
   7.1
   7.6
   7.8
   8.5
   9.2
   9.7
   8.9
   7.8
   TCO2
   24
   Glucose
   148
   141
   177
   85
   148
   108
   130
   171
   Other labs: PT / PTT / INR:15.7/150.0/1.4, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:785/174, Alk Phos / T Bili:129/5.6,
   Amylase / Lipase:182/345, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:1789 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 COMA (OTHER THAN DIABETIC, HEPATIC, OR TRAUMATIC COMA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SHOCK, CARDIOGENIC
   A/P: 60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock
   and rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN.
   #PUMP/Hemodynamics: Last ECHO showed improved EF (35-40%) likely [**1-14**] LV
   recovery with assistance of impella. patient has remained
   hemodynamically stable since impella removedf pressors. Continuing with
   prednisone for ? giant cell myocarditis per HF team. Pt is now on
   dialysis, with improving lytes and volume status.
   - appreciate HF recs
   - f/u plan for high dose steroids with HF team. Also discuss any plans
   for bx.
   #RHYTHM: s/p ablation. Was sinus since receiving proc [**5-25**] but in AFib
   this AM with rate around 100. Per Dr. [**Last Name (STitle) **] yesterday, no more proc or
   dig for now given renal fxn. Will also cont lopressor TID for rate
   control.
   - will titrate to 37.5mg TID today
   - f/u EP recs, consider proc bolus today versus amio given improving
   LFT
   - follow [**Hospital1 7**] ECGs
   - restarted heparin gtt after temp HD line placement yesterday
   .
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   .
   # Acute Renal Failure: Improving with Cre trending down. Likely [**1-14**] ATN
   in setting of cardiogenic shock. Initiated CVVH yesterday with
   temporary HD line placed by renal.
   - cont CVVH
   - f/u renal recs
   .
   # Positive Blood Cx: One out of four bottles positive for GPC
s in
   clusters from [**5-25**]. This likely represents line infection vs
   contaminant. On vanc. Remains afebrile, WBC pending. Level 15 after 1g
   Vanco
   -f/u cx and sensitivites
   - cont daily vanc levels and dose 1g vancomycin today
   -will need to insert new central access so that we can remove groin
   cortis
   .
   #  Leukocytosis: WBC pending but remains afebrile. This is likely
   partially related to high dose steroids and stress demargination but
   given possible bacteremia this could be contributing factor. UA with
   many RBCs and 21 WBCs. CXR from [**5-25**] does show left upper lobe opacity.
   - cont Vancomycin for possible bacteremia for now
   - trend WBC and fever curve
   - f/u sputum sample, urine cx
   - send c. diff
   - will CIS
   #Anemia/Thrombocytopenia: Resolving. Hct trending up 32.2 and plt count
   also trending up. Likely impella was contributing to hemolysis and plt
   shearing.
   - cont to monitor
   # RUQ Pain: hard to assess given still somewhat sedated, but withdraws
   from RUQ pain. Likely hepatic tenderness r/t shock liver. LFTs
   including Tbili are trending down. Still no BMs. Will hold of on
   imaging for now
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure:  Stable, unchanged vent settings over last 24h.
   Will attempt to begin weaning again today with volume improvements from
   HD. Attempt CPAP trial
   # Mental status- off sedation now and responsive, squeezing both hands
   to verbal commands. In setting of Liver and Renal failure pt
s poor
   mental status likely due to decr metabolism/excretion of sedating drugs
   - continue to monitor
   - ensure good pain control today
   - try to wean vent
   #FEN: restarted TFs per nutrition rec but held [**1-14**] high residuals.
   Follow lytes during dialysis.
   #PPx: IV Heparin, bowel reg, PPI
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-5-27**] 02:59 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2160-5-25**] 02:46 PM
   Dialysis Catheter - [**2160-5-26**] 12:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   This AM in Afib with rapid VR of 120 assoc with drop in SBP to 80
   requiring NEO.
   Began HD yesterday.   Remains very oliguric.
   One pos BC for coag neg staph.   On Vancomycin but may be contaminant.
   Day 6 intubation.
   Medical Decision Making
   Will discuss with EP possibility of Amio to restore NSR vs higher dose
   lopressor to control VR.
   Remains on Prednisone for Rx of ? fulminant myocarditis.
   [**Month (only) 51**] be ready to start wean off vent.
   HD to continue.
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-5-27**] 11:50 ------

2160-05-28 07:34:00 Physician Resident Progress Note
Chief Complaint: 60yoM with dilated cardiomyopathy (EF 15%) s/p
   cardiogenic shock and rapid Aflutter now s/p AF ablation and s/p
   impella device, now on dialysis for ATN.
   24 Hour Events:
   - Echo- overall improving left ventricular contractile function; atrial
   fibrillation/flutter with significantly impaired stroke volume and
   ejection fraction during beats after short diastolic filling time
   - Metop incr to 100mg TID- to slow HR since CO dept on ventric filing
   - Pt put on Neo to accomodate metop, but had decr abd sounds, and
   increased TF residuals. -> lactate stable 1.6
   - gave 5mg IV lopressor during this time, no effect
   - reverted to NSR spontaneously around 9pm. After that HR remained in
   70s. BP 120s.
   - EP: cont hep gtt 50-70. Consider amio when LFTs improve.
   - stopped prednisone
   - Micro 1+ GNR from sputum. ID did believe VAP- afebrile last 24h, wbc
   coming down, no infiltrate seen on CXR - cont only Vanco.
   - Vanco level 15.1 -> redosed
   - incr bowel regimen
   - No new renal recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-5-27**] 02:49 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-5-27**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-28**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 67 (67 - 118) bpm
   BP: 124/51(68) {80/40(50) - 140/68(84)} mmHg
   RR: 15 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  2,994 mL
                                                                    578 mL
   PO:
             TF:
                                                                     80 mL
   IVF:
                                                                  2,824 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  5,429 mL
                                                                  1,676 mL
   Urine:
                                                                     70 mL
                                                                     35 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,435 mL
                                                                 -1,098 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 772 (654 - 772) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.37/42/144/24/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   108 K/uL
   9.9 g/dL
   97 mg/dL
   5.3 mg/dL
   24 mEq/L
   4.5 mEq/L
   86 mg/dL
   96 mEq/L
   132 mEq/L
   30.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2160-5-26**]  03:37 AM
                             [**2160-5-26**]  12:46 PM
                             [**2160-5-26**]  08:18 PM
                             [**2160-5-27**]  01:42 AM
                             [**2160-5-27**]  05:59 AM
                             [**2160-5-27**]  10:10 AM
                             [**2160-5-27**]  03:19 PM
                             [**2160-5-27**]  09:40 PM
                             [**2160-5-28**]  04:43 AM
                             [**2160-5-28**]  04:58 AM
   WBC
   46.2
   28.7
   26.7
   20.2
   Hct
   32.2
   30.3
   30.0
   30.2
   Plt
   104
   96
   120
   108
   Cr
   9.2
   9.7
   8.9
   7.8
   7.3
   7.5
   6.7
   5.9
   5.3
   TCO2
   25
   Glucose
   148
   108
   130
   171
   148
   135
   207
   105
   97
   Other labs: PT / PTT / INR:14.6/35.7/1.3, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:441/91, Alk Phos / T Bili:132/5.7,
   Amylase / Lipase:182/345, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:1200 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   #PUMP/Hemodynamics: ECHO yesterday showed overall improving EF. Pt is
   now on dialysis, with improving lytes and volume status. Currently
   requiring intermittent neo (up to 0.6mcg) for pressure support while on
   high doses of bb. Stopped prednisone as per HF recs.
   - appreciate HF recs
   - follow i/o's on dialysis
   #RHYTHM: s/p ablation. ECHO yesterday during Afib showed impaired SV
   and EF during beats following short diastolic filling time. Therefore,
   slowing HR to improve filling time is primary goal.
   - appreciate EP rec's
   - Currently NSR
   - Cont lopressor 100 mg PO tid
   - Consider amio when LFTs normalize
   - follow daily ECGs
   - cont heparin gtt
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: Improving with Cre trending down. Likely [**1-14**] ATN
   in setting of cardiogenic shock. On day 2 of CVVH with temporary HD
   line placed by renal.
   - cont CVVH
   - f/u renal recs
   # Positive Blood Cx: One out of four bottles positive for coag- staph
   from [**5-25**]. This likely represents line infection vs contaminant. On
   vanc. 1/4 bottles from sputum + for GNR. Remains afebrile, WBC trending
   down, CXR - for infiltrate, therefore cont only vanc for now per ID.
   Level 15 after 1g Vanco.
   - f/u cx and sensitivites
   - cont daily vanc levels and dose 1g vancomycin today
   - plan to place PICC and remove cordis
   .
   #  Leukocytosis: WBC 20.2, trending down, remains afebrile. This is
   likely partially related to high dose steroids and stress demargination
   but given possible bacteremia this could be contributing factor. UA
   with many RBCs and 21 WBCs. CXR from [**5-25**] does show left upper lobe
   opacity.
   - cont Vancomycin for possible bacteremia for now
   - trend WBC and fever curve
   - f/u sputum sample, urine cx
   - send c. diff when has BM
   - will CIS
   #Anemia/Thrombocytopenia: Resolving. Hct and plt stable.
   - cont to monitor
   # RUQ Pain: Withdraws from RUQ palpation, but stable on exam from
   yesterday. Likely hepatic tenderness r/t shock liver. LFTs including
   Tbili are trending down. Still no BMs. Will hold off on imaging for
   now.
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure: Stable, unchanged vent settings over last 24h.
   Will attempt to begin weaning again today with volume improvements from
   HD. Pt is on CPAP
   # Mental status- off sedation now and responsive, squeezing both hands
   to verbal commands. In setting of Liver and Renal failure pt
s poor
   mental status likely due to decr metabolism/excretion of sedating drugs
   - continue to monitor
   - ensure good pain control today
   - try to wean vent
   #FEN: restarted TFs yesterday but continues to have high residuals.
   Follow lytes during dialysis. Repeat suppository today for BM.
   #PPx: IV Heparin, bowel reg, PPI
   #Access: cordis, plan for PICC today
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2160-5-25**] 02:46 PM
   Dialysis Catheter - [**2160-5-26**] 12:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Maintaining NSR on Lopressor 100 TID.  Intermittently on low dose
   Neo.   Prednisone discontinued.
   Continues on HD but groin line suboptimal and plan resite tomorrow.
   Hope to begin weaning off vent tomorrow when all groin lines out.  70
   cc urine output.
   On Vanc for one + BC which may be contaminant.  WBC decr 20.2.
   Afebrile.
   LFTs better. Echo EF 20-40% depending on HR.
   Medical Decision Making
   Continue on high dose lopressor.   Wean off neo.
   Wean off vent tomorrow after lines resited.
   Continue HD.
   ID opinion re need for Vanc.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-5-28**] 15:38 ------

2160-05-29 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2160-5-28**] 02:00 PM
   double lumen
   PICC placed
   Vanco was d/c
   Will have tunnelled HD line placed by IR in am
   Began reglan 5mg PO to improve gastric motility
   Having bowel movements
   Holding tube feeds overnight
   Held off on weaning vent given plans for procedure in am
   Went back into AFib with RVR in the 130's-140's, pressures remained
   stable. Gave 5mg IV lopressor and gave oral metop dose early
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-5-27**] 02:49 PM
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-5-28**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 111 (65 - 132) bpm
   BP: 121/68(83) {92/16(50) - 142/70(83)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  2,252 mL
                                                                  1,221 mL
   PO:
             TF:
                                                                     90 mL
                                                                     70 mL
   IVF:
                                                                  1,882 mL
                                                                  1,091 mL
   Blood products:
   Total out:
                                                                  3,342 mL
                                                                  2,038 mL
   Urine:
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (461 - 563) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 10.2 L/min
   Physical Examination
   GEN: intubated, responsive, awakens and follows commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   101 K/uL
   10.4 g/dL
   135 mg/dL
   4.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   67 mg/dL
   97 mEq/L
   133 mEq/L
   31.0 %
   20.8 K/uL
                             [**2160-5-26**]  08:18 PM
                             [**2160-5-27**]  01:42 AM
                             [**2160-5-27**]  05:59 AM
                             [**2160-5-27**]  10:10 AM
                             [**2160-5-27**]  03:19 PM
                             [**2160-5-27**]  09:40 PM
                             [**2160-5-28**]  04:43 AM
                             [**2160-5-28**]  04:58 AM
                             [**2160-5-28**]  02:41 PM
                             [**2160-5-29**]  03:56 AM
   WBC
   28.7
   26.7
   20.2
   21.8
   20.8
   Hct
   30.3
   30.0
   30.2
   29.7
   31.0
   Plt
   96
   120
   108
   99
   101
   Cr
   8.9
   7.8
   7.3
   7.5
   6.7
   5.9
   5.3
   5.5
   4.4
   TCO2
   25
   Glucose
   130
   171
   148
   135
   [**Telephone/Fax (2) 8251**]7
   135
   Other labs: PT / PTT / INR:14.8/61.6/1.3, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:341/73, Alk Phos / T Bili:142/5.5,
   Amylase / Lipase:182/345, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:912 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 COMA (OTHER THAN DIABETIC, HEPATIC, OR TRAUMATIC COMA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SHOCK, CARDIOGENIC
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN.
   #PUMP/Hemodynamics: ECHO [**5-27**] showed overall improving EF. Pt is now on
   dialysis, with improving lytes and volume status. Currently requiring
   intermittent neo (up to 0.6mcg) for pressure support while on high
   doses of bb. Stopped prednisone as per HF recs.
   - appreciate HF recs from [**Doctor Last Name **]
   - follow i/o's on dialysis
   #RHYTHM: s/p ablation.  Pt reverted back into a-fib overnight, given
   5mg IV lopressor and AM dose of 100metoprolol early. ECHO yesterday
   during Afib showed impaired SV and EF during beats following short
   diastolic filling time. Therefore, slowing HR to improve filling time
   is primary goal.
   - appreciate EP rec's
 will speak to EP on digoxin vs. amio
   - Plan to titrate lopressor 125 mg PO tid
   - Consider amio when LFTs normalize
   - follow daily ECGs
   - cont heparin gtt
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: On CVVH. Likely [**1-14**] ATN in setting of
   cardiogenic shock. On day 3 of CVVH with temporary HD line placed by
   renal.
   - cont CVVH
   - tunneled HD line by IR today, then remove temp line
   - f/u renal recs
   # Positive Blood Cx: One out of four bottles positive for coag- staph
   from [**5-25**]. This likely represents contaminant. Repeat cx have all
   remained negative And vanco d/c
d. Remains afebrile, WBC trending down.
   Sputum growing only yeast, likely colonization.
   - d/c
d vanco yesterday
   - f/u cx and sensitivites
   - Remove cordis this AM
   - trend WBC and fever curve
   .
   #  Leukocytosis: WBC 20.2, trending down, remains afebrile. This is
   likely partially related to high dose steroids and stress
   demargination. Urine cx negative, sputum growing yeast, c. diff
   negative.
   - trend WBC and fever curve
   - f/u sputum sample, urine cx
   - will CIS
   #Anemia/Thrombocytopenia: Resolving. Hct and plt stable.
   - cont to monitor
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure: Stable, unchanged vent settings over last 24h. Pt
   stable on [**4-20**].
   - Will plan to extubate after tunneled line placed.
   # Mental status- off sedation now and responsive, squeezing both hands
   to verbal commands. In setting of Liver and Renal failure pt
s poor
   mental status likely due to decr metabolism/excretion of sedating drugs
   - continue to monitor
   - ensure good pain control today
   - try to wean vent
   #FEN: TFs Follow lytes during dialysis. Repeat suppository today for
   BM.
   #PPx: IV Heparin, bowel reg, PPI
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2160-5-25**] 02:46 PM
   Dialysis Catheter - [**2160-5-26**] 12:09 PM
   PICC Line - [**2160-5-28**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8120**].
   I would add the following remarks:
   History
   Self extubated this AM and maintaining 100% sats.  Oriented X 1.
   Very little urine output and continues on HD.
   Back in NSR.   Lfts better.
   Medical Decision Making
   Continue HD.
   On Lopressor 100 tid.
   Will continue to have EP follow and see if AFIB recurs and may consider
   Amiodarone now that LFTs better.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-5-29**] 14:06 ------

2160-05-30 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt self extubated, resp status stable
   - pt spontaneously converted to sinus (metoprolol kept at 100mg TID)
   - cordis d/c
   - IR tunneled postponed til today given pt self-extubated and wasn't
   sure if he could lay flat and still for procedure
   - Speech and swallow consult placed
   - PM labs: WBC back up, 20.8 -> 32.4, afebrile (sent BCx no abx)
   - still requiring 0.8 mcg neo
   - c.diff negative from [**5-28**]
   - still c/o RUQ pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-5-27**] 02:49 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-30**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 74 (69 - 110) bpm
   BP: 100/74(81) {99/42(57) - 132/74(81)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  2,693 mL
                                                                  1,076 mL
   PO:
             TF:
                                                                     70 mL
   IVF:
                                                                  2,498 mL
                                                                  1,076 mL
   Blood products:
   Total out:
                                                                  5,492 mL
                                                                  1,736 mL
   Urine:
                                                                     27 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,799 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   10.4 g/dL
   101 mg/dL
   3.3 mg/dL
   22 mEq/L
   3.9 mEq/L
   47 mg/dL
   96 mEq/L
   131 mEq/L
   30.7 %
   31.3 K/uL
        [image002.jpg]
                             [**2160-5-27**]  10:10 AM
                             [**2160-5-27**]  03:19 PM
                             [**2160-5-27**]  09:40 PM
                             [**2160-5-28**]  04:43 AM
                             [**2160-5-28**]  04:58 AM
                             [**2160-5-28**]  02:41 PM
                             [**2160-5-29**]  03:56 AM
                             [**2160-5-29**]  10:34 AM
                             [**2160-5-29**]  05:26 PM
                             [**2160-5-30**]  03:06 AM
   WBC
   26.7
   20.2
   21.8
   20.8
   32.3
   31.3
   Hct
   30.0
   30.2
   29.7
   31.0
   32.4
   30.7
   Plt
   120
   108
   99
   101
   127
   116
   Cr
   7.5
   6.7
   5.9
   5.3
   5.5
   4.4
   3.6
   3.3
   TCO2
   25
   Glucose
   135
   207
   105
   97
   177
   135
   91
   112
   101
   Other labs: PT / PTT / INR:14.3/82.1/1.2, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:242/57, Alk Phos / T Bili:131/5.6,
   Amylase / Lipase:182/345, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:754 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 COMA (OTHER THAN DIABETIC, HEPATIC, OR TRAUMATIC COMA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SHOCK, CARDIOGENIC
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: s/p Aflutter ablation now with intermittent Afib/RVR. Reverted
   back into NSR yesterday.
   - appreciate EP rec's
   - Continue lopressor 100mg tid
   - Consider amio when LFTs fully normalize
   - follow daily ECGs
   - cont heparin gtt
   #PUMP/Hemodynamics: ECHO [**5-27**] showed overall improving EF. Pt is now on
   dialysis, with improving lytes and volume status. Still requiring
   intermittent neo (up to 0.6mcg) for pressure support while on high
   doses of bb.
   - appreciate HF recs from [**Doctor Last Name **]
   - follow i/o's on dialysis
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: On CVVH. Likely [**1-14**] ATN in setting of
   cardiogenic shock. On day 4 of CVVH with temporary HD line placed by
   renal.
   - cont CVVH
   - likely tunneled HD line by IR today, then remove temp line
   - f/u renal recs
   # Leukocytosis/Positive Blood Cx: WBC had trended down for several days
   but trended up last night, 20.2 -> 32 -> 31 this AM, no longer in
   setting of steroids or acute stressors. Remains afebrile. One out of
   four bottles positive for coag- staph from [**5-25**]. This likely represents
   contaminant. Repeat cx have all remained negative and vanco d/c
   Sputum growing only yeast, likely colonization. Cdiff negative [**5-28**].
   - RUQ U/S today
   - d/c
d vanco yesterday while WBCs were still trending down
   - resent blood Cx yesterday
   - trend WBC and fever curve
   - f/u sputum sample, urine cx
   - will CIS
   - Cordis dc
d yesterday
   .
   #Anemia/Thrombocytopenia: Resolving. Hct and plt stable.
   - cont to monitor
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure: Stable, s/p self-extubation.
   # Mental status- off sedation now and alert, responsive but not very
   communicative, likely still groggy. In setting of Liver and Renal
   failure pt
s poor mental status likely due to decr metabolism/excretion
   of sedating drugs
   - continue to monitor
   - ensure good pain control today
   #FEN: PO diet. Follow lytes during dialysis.
   #PPx: IV Heparin, bowel reg, PPI
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:  TF
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2160-5-26**] 12:09 PM
   PICC Line - [**2160-5-28**] 02:00 PM
   Communication:  Comments:
   Code status: Full code
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**] .
   I would add the following remarks:
   History
   Doing well from resp standpoint since self extubation yesterday.
   Oriented X 1.
   Concern re incr WBC but afebrile.
   Continues on HD with plans to have tunneled line today.
   Problems continue with intermittent rapid AF, again this AM.
   24 hr urine output only 27 cc.
   Physical Examination
   chest clear.
   Speaks a few words.
   Medical Decision Making
   Lopressor for rapid AF.
   Tunneled line.
   Continue HD.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-5-30**] 11:50 ------

2160-05-31 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RUQ U/S: No intra- or extra-hepatic biliary ductal dilatation, as
   questioned.  The proximal common duct measures 2 mm. The gallbladder is
   surgically absent. The liver is normal in appearance.
   - HR in 140's again at 12noon : Gave total IV lop 20mg. Also started
   dig load
   - Temp line placement by IR, not tunneled w/ high WBC (as might need
   removal)
   - After pt came back after line pt remained in NSR, rate in 70s
   - groin line removed
   - No new EP or Dr. [**First Name (STitle) **] recs
   - Renal: cont CVVH
   - Failed bedside swallow, should have NG over weekend
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Metoprolol - [**2160-5-30**] 03:00 PM
   Pantoprazole (Protonix) - [**2160-5-30**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 75 (72 - 154) bpm
   BP: 112/47(63) {77/25(39) - 137/70(79)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  2,321 mL
                                                                    499 mL
   PO:
             TF:
   IVF:
                                                                  2,321 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  3,682 mL
                                                                  1,100 mL
   Urine:
                                                                    110 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,361 mL
                                                                   -601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Oriented to person, not
   place or time. Answers certain simple questions appropriately. Moving
   all extremities.
   Labs / Radiology
   112 K/uL
   9.7 g/dL
   124 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   40 mg/dL
   97 mEq/L
   132 mEq/L
   29.9 %
   25.9 K/uL
        [image002.jpg]
                             [**2160-5-28**]  04:43 AM
                             [**2160-5-28**]  04:58 AM
                             [**2160-5-28**]  02:41 PM
                             [**2160-5-29**]  03:56 AM
                             [**2160-5-29**]  10:34 AM
                             [**2160-5-29**]  05:26 PM
                             [**2160-5-30**]  03:06 AM
                             [**2160-5-30**]  09:22 AM
                             [**2160-5-30**]  09:00 PM
                             [**2160-5-31**]  04:31 AM
   WBC
   20.2
   21.8
   20.8
   32.3
   31.3
   26.1
   25.9
   Hct
   30.2
   29.7
   31.0
   32.4
   30.7
   29.6
   29.9
   Plt
   108
   99
   101
   127
   116
   128
   112
   Cr
   5.3
   5.5
   4.4
   3.6
   3.3
   3.3
   3.0
   TCO2
   25
   Glucose
   97
   177
   135
   91
   112
   101
   187
   286
   124
   Other labs: PT / PTT / INR:14.7/51.3/1.3, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:242/57, Alk Phos / T Bili:131/5.6,
   Amylase / Lipase:182/345, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:754 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: Flipped into Afib with RVR yesterday treated with IV
   lopressor- pressure remained stable. In addition, pt loaded with
   digoxin. Patient eventually converted back to NSR.
   - appreciate EP rec's
   - Continue lopressor 100mg tid
   - Cont Digoxin 0.125mg daily
   - follow daily ECGs
   - cont heparin gtt
   #PUMP/Hemodynamics: ECHO [**5-27**] showed overall improving EF. Pt is now on
   dialysis, with improving lytes and volume status. Still requiring
   intermittent neo (up to 0.6mcg) for pressure support while on high
   doses of bb.
   - appreciate HF recs from Dr. [**First Name (STitle) **]
   - follow i/o's on dialysis
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: On CVVH. Likely [**1-14**] ATN in setting of
   cardiogenic shock. s/p temp line placed by IR yesterday
   - cont CVVH
   - f/u renal recs
   # Leukocytosis/Positive Blood Cx:  Unclear what is responsible for this
   persistent leukocytosis. We do not feel this is attributable to the one
   pos coag neg blood cx. A RUQ U/S yesterday did not show any
   hepatobiliary pathology
   - cont to monitor WBC ct and fever curve
   - f/u blood, urine and sputum cxs
   .
   #Anemia/Thrombocytopenia: Resolving. Hct and plt stable.
   - cont to monitor
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure: Stable, s/p self-extubation.
   # Mental status- off sedation now and alert, responsive but not very
   communicative, likely still groggy. In setting of Liver and Renal
   failure pt
s poor mental status likely due to decr metabolism/excretion
   of  toxic metabolites and sedating drugs
   - continue to monitor
   - ensure good pain control today
   #FEN: PO diet. Follow lytes during dialysis.
   #PPx: IV Heparin, bowel reg, PPI
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ------ Protected Section ------
   As per above; cardiac function is now not the [**Last Name **] problem, as the
   cardiac index has normalized.  Continue supportive measures in hope of
   recovery of renal and liver function
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2160-6-1**]
   11:27 ------

2160-06-01 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -NG tube placed
   -Remained in NSR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-6-1**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 71 (68 - 96) bpm
   BP: 111/50(65) {83/38(49) - 130/60(73)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  3,218 mL
                                                                  1,045 mL
   PO:
             TF:
                                                                    134 mL
                                                                    188 mL
   IVF:
                                                                  2,918 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  4,097 mL
                                                                  1,554 mL
   Urine:
                                                                     15 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -879 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   78 K/uL
   8.8 g/dL
   227 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   32 mg/dL
   95 mEq/L
   128 mEq/L
   27.4 %
   22.6 K/uL
        [image002.jpg]
                             [**2160-5-29**]  03:56 AM
                             [**2160-5-29**]  10:34 AM
                             [**2160-5-29**]  05:26 PM
                             [**2160-5-30**]  03:06 AM
                             [**2160-5-30**]  09:22 AM
                             [**2160-5-30**]  09:00 PM
                             [**2160-5-31**]  04:31 AM
                             [**2160-5-31**]  11:46 AM
                             [**2160-5-31**]  06:49 PM
                             [**2160-6-1**]  04:32 AM
   WBC
   20.8
   32.3
   31.3
   26.1
   25.9
   22.6
   Hct
   31.0
   32.4
   30.7
   29.6
   29.9
   27.4
   Plt
   101
   127
   116
   128
   112
   78
   Cr
   4.4
   3.6
   3.3
   3.3
   3.0
   2.7
   2.6
   Glucose
   135
   91
   112
   101
   187
   286
   124
   107
   115
   227
   Other labs: PT / PTT / INR:15.3/62.5/1.3, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:120/48, Alk Phos / T Bili:124/3.7,
   Amylase / Lipase:182/345, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:434 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: Remained in NSR and hemodynamically stable. Now on digoxin.
   - Continue lopressor 100mg tid
   - Dig level elevated at 2.8, already given today and re-check level
   tomorrow
   - follow daily ECGs
   - cont heparin gtt
   #PUMP/Hemodynamics: Continuing on dialysis, with improving lytes and
   volume status. Still requiring intermittent neo (up to 0.6mcg) for
   pressure support while on high doses of bb.
   - wean neo today
   - appreciate HF recs from Dr. [**First Name (STitle) **]
   - follow i/o's on dialysis
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: On CVVH. Likely [**1-14**] ATN in setting of
   cardiogenic shock. s/p temp line placed by IR on Friday.  However, has
   been prone to clot. Will plan for HD starting tomorrow per renal, may
   need to increase pressors during HD
   - cont CVVH, plan to change to HD tomorrow
   - f/u renal recs
   - will likely need tunneled line placement in the future
   # Leukocytosis/Positive Blood Cx:  Now trending down again, 25.9 ->
   22.6. Unclear what is responsible for this persistent leukocytosis. We
   do not feel this is attributable to the one pos coag neg blood cx. RUQ
   U/S on Friday did not show any hepatobiliary pathology.
   - cont to monitor WBC ct and fever curve
   - f/u blood, urine and sputum cxs
   .
   #Anemia/Thrombocytopenia: Mild Hct and Plt drop O/N, 29.9 -> 27.4 and
   112 -> 78, respectively.
   - cont to monitor
   # Shock liver- AST/ALT cont to improve. Now that pt has improved
   perfusion expect recovery
   - cont to trend LFTs
   #Respiratory Failure: Stable, now on nasal cannula s/p self-extubation.
   # Mental status- off sedation now and alert, responsive but not very
   communicative, likely still groggy. In setting of Liver and Renal
   failure pt
s poor mental status likely due to decr metabolism/excretion
   of  toxic metabolites and sedating drugs. Oriented to person but not to
   time or place. No focal neurological deficits mild proximal R arm
   weakness, likely of a musculoskeletal etiology and deconditioning. Will
   monitor for improvement and arrange PT when appropriate.
   - continue to monitor
   - ensure good pain control today
   #FEN: NG diet. Follow lytes during dialysis.
   #PPx: IV Heparin, bowel reg, PPI
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-6-1**] 06:29 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-28**] 02:00 PM
   Dialysis Catheter - [**2160-5-30**] 05:59 PM
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Maintaining NSR on Lopressor and dig.   Still on low dose neo.
   Extubated with good resp status.
   Plt count decr 78.
   Continues on HD with urine output only 15 cc.
   Mild weakness of right foot dorsiflexion noted.
   Oriented X 1.
   WBC decr 22.6
   Medical Decision Making
   Will continue HD.
   Wean off Neo.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-6-1**] 10:49 ------

2160-06-02 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per renal, will try HD even if pressors are on board. stopped CVVH @
   6. Minimal UOP.
   -per Dr. [**First Name (STitle) **], HF is likely resolved and CO is now normal or better
   than normal
   -WBC stable
   -Hct, PLT stable
   -mental status stable AOx1(person), r dorsiflexion weakness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-6-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 76 (63 - 79) bpm
   BP: 107/47(62) {90/30(50) - 126/59(73)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.8 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  3,331 mL
                                                                    670 mL
   PO:
             TF:
                                                                    910 mL
                                                                    349 mL
   IVF:
                                                                  2,151 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  4,423 mL
                                                                     60 mL
   Urine:
                                                                     74 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,092 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   83 K/uL
   9.9 g/dL
   129 mg/dL
   3.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   41 mg/dL
   97 mEq/L
   132 mEq/L
   30.4 %
   22.6 K/uL
        [image002.jpg]
                             [**2160-5-30**]  03:06 AM
                             [**2160-5-30**]  09:22 AM
                             [**2160-5-30**]  09:00 PM
                             [**2160-5-31**]  04:31 AM
                             [**2160-5-31**]  11:46 AM
                             [**2160-5-31**]  06:49 PM
                             [**2160-6-1**]  04:32 AM
                             [**2160-6-1**]  11:49 AM
                             [**2160-6-1**]  06:15 PM
                             [**2160-6-2**]  04:00 AM
   WBC
   31.3
   26.1
   25.9
   22.6
   22.6
   Hct
   30.7
   29.6
   29.9
   27.4
   30.4
   Plt
   116
   128
   112
   78
   83
   Cr
   3.3
   3.3
   3.0
   2.7
   2.6
   2.4
   3.5
   Glucose
   101
   187
   286
   124
   107
   115
   227
   271
   140
   129
   Other labs: PT / PTT / INR:13.6/47.1/1.2, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:120/48, Alk Phos / T Bili:124/3.7,
   Amylase / Lipase:182/345, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:434 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: Has remained in NSR now >48 hrs. Now on digoxin.
   - Continue lopressor 100mg tid
   - Dig level elevated at 3.5, cont to hold dig
   - follow daily ECGs
   - d/c heparin gtt, hold on coumadin given need to tunneled line
   placement.  Will restart heparin gtt if reverts to a-fib
   #PUMP/Hemodynamics: Stopped dialysis yesterday. Minimal UOP since then.
   Creatinine rising 2.4
 3.5. TBB positive this morning. Still requiring
   intermittent neo (up to 0.6mcg) for pressure support while on high
   doses of bb.
   - appreciate HF recs from Dr. [**First Name (STitle) **]
   - follow renal rec
s today for likely HD and long-term planning
   - follow i/o's on dialysis
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: s/p CVVH, starting HD today. Likely [**1-14**] ATN in
   setting of cardiogenic shock. s/p temp line placed by IR on Friday.
   - plan for HD today
   - f/u renal recs
   - will likely need tunneled line placement in the future
   # Leukocytosis/Positive Blood Cx:  Now stable at 22.6. Unclear what is
   responsible for this persistent leukocytosis. We do not feel this is
   attributable to the one pos coag neg blood cx. RUQ U/S on Friday did
   not show any hepatobiliary pathology. Will discuss CXRs with radiology.
   - ID consult today
   - cont to monitor WBC ct and fever curve
   - f/u blood, urine and sputum cxs
   - will recheck c. diff
   #Anemia/Thrombocytopenia: Hct increased, Platelet count stable O/N.
   - cont to monitor
   # Shock liver- AM labs pending. Now that pt has improved perfusion
   expect recovery
   - f/u LFTs
   #Respiratory Failure: Stable, now on nasal cannula s/p self-extubation.
   # Mental status- off sedation now and increasingly alert and
   communicative. In setting of Liver and Renal failure pt
s poor mental
   status likely due to decr metabolism/excretion of toxic metabolites and
   sedating drugs. Oriented to person but not to time or place. No focal
   neurological deficits mild proximal R arm weakness, likely of a
   musculoskeletal etiology and deconditioning. Will monitor for
   improvement and arrange PT when appropriate.
   - continue to monitor
   - OOB to chair today
   - ensure good pain control today
   - PT consult
   #FEN: NG diet. f/u S/S rec
s today. Follow lytes during dialysis.
   #PPx: IV Heparin, bowel reg.
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-6-2**] 03:18 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-28**] 02:00 PM
   Dialysis Catheter - [**2160-5-30**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Sitting up for first time.
   urine output 75 cc over 24 hrs.
   HD planned.
   Maintaining NSR on Lopressor 100 tid.
   Still on low dose Neo.
   Plt  83,000.
   Medical Decision Making
   Swallow study today.
   HD.  D/c Foley.
   Will stop heparin now that more mobile.
   [**Month (only) 51**] need to restart if AF recurs.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-6-2**] 10:54 ------

2160-06-03 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Heme/Onc consulted for persistent leukocytosis- will staff in AM
   - foley d/c'd - no need for straight cath
   - d/c'd heparin
   - c.diff sent again
   - failed S/S yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-6-2**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-6-3**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 91 (67 - 91) bpm
   BP: 120/50(66) {92/26(44) - 129/58(75)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.8 kg (admission): 105 kg
   Height: 71 Inch
             Total In:
                                                                  1,900 mL
                                                                    341 mL
   PO:
             TF:
                                                                  1,193 mL
                                                                    338 mL
   IVF:
                                                                    438 mL
                                                                      4 mL
   Blood products:
   Total out:
                                                                    924 mL
                                                                    125 mL
   Urine:
                                                                     44 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    976 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   65 K/uL
   8.6 g/dL
   155 mg/dL
   4.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   47 mg/dL
   101 mEq/L
   135 mEq/L
   26.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2160-5-30**]  09:22 AM
                             [**2160-5-30**]  09:00 PM
                             [**2160-5-31**]  04:31 AM
                             [**2160-5-31**]  11:46 AM
                             [**2160-5-31**]  06:49 PM
                             [**2160-6-1**]  04:32 AM
                             [**2160-6-1**]  11:49 AM
                             [**2160-6-1**]  06:15 PM
                             [**2160-6-2**]  04:00 AM
                             [**2160-6-3**]  03:18 AM
   WBC
   26.1
   25.9
   22.6
   22.6
   13.9
   Hct
   29.6
   29.9
   27.4
   30.4
   26.5
   Plt
   128
   112
   78
   83
   65
   Cr
   3.3
   3.0
   2.7
   2.6
   2.4
   3.5
   4.2
   Glucose
   187
   286
   124
   107
   115
   227
   271
   140
   129
   155
   Other labs: PT / PTT / INR:12.3/29.6/1.0, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:73/37, Alk Phos / T Bili:116/2.4,
   Amylase / Lipase:182/345, Differential-Neuts:86.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:7.0 %, Eos:1.8 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:288 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL, Dig 2.4
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: Has remained in NSR now >72 hrs. Now on digoxin.
   - Continue lopressor 100mg tid
   - Dig level coming down, cont to hold dig
   - follow daily ECGs
   - hold on coumadin given need to tunneled line placement.  Will restart
   heparin gtt if reverts to a-fib
   #PUMP/Hemodynamics: Minimal UOP. Had HD yesterday. Creatinine rising
   2.4
 3.5. TBB positive this morning. Stopped neo this morning.
   - appreciate HF recs from Dr. [**First Name (STitle) **]
   - follow renal rec
s today for HD and long-term planning
   - follow i/o's on dialysis
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   # Acute Renal Failure: s/p CVVH, starting HD today. Likely [**1-14**] ATN in
   setting of cardiogenic shock. s/p temp line placed by IR on Friday.
   - f/u renal recs
   - will likely need tunneled line placement in the future
   # Leukocytosis/Positive Blood Cx:  Coming down to 13.9. Heme/Onc has
   been consulted. Unclear what is responsible for this persistent
   leukocytosis. We do not feel this is attributable to the one pos coag
   neg blood cx, also received 3 days vanco. RUQ U/S on Friday did not
   show any hepatobiliary pathology.
   - repeat CBC since all values decreased
   - Heme consult will see this AM
   - cont to monitor WBC ct and fever curve
   - all cultures negative so far
   - send c.diff today
   #Anemia/Thrombocytopenia: Hct and PLT decreased again O/N, in setting
   of drop of 3 blood lines.
   - repeat labs for ? lab error
   - heparin has been dc
   - cont to monitor
   - discuss with heme re: HIT Ab
   # Shock liver- Almost normal. Now that pt has improved perfusion expect
   recovery
   - f/u LFTs
   #Respiratory Failure: Stable, now on nasal cannula s/p self-extubation.
   # Mental status- off sedation now and increasingly alert and
   communicative. In setting of Liver and Renal failure pt
s poor mental
   status likely due to decr metabolism/excretion of toxic metabolites and
   sedating drugs. Oriented to person but not to time or place. No focal
   neurological deficits mild proximal R arm weakness, likely of a
   musculoskeletal etiology and deconditioning. Will monitor for
   improvement and arrange PT when appropriate.
   - continue to monitor
   - OOB to chair today
   - ensure good pain control today
   - failed S/S yesterday, continuing NG feeds, S/S will reevaluate later
   this week
   - PT consult
   #FEN: NG diet. Follow lytes during dialysis. Discuss nutritional
   improvements w/ nutrition.
   #PPx: pneumoboots, bowel reg.
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-6-3**] 03:22 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-28**] 02:00 PM
   Dialysis Catheter - [**2160-5-30**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**] and Harish.
   I would add the following remarks:
   History
   More alert.
   Off Neo.
   Poor urine output 44 cc/24 hrs.
   WBC decr 13.5, plt 65.
   Failed swallow test.
   Physical Examination
   minor weakness of right foot dorsiflexion.
   diarrhea
   Medical Decision Making
   Appreciate Heme input re low Plt and incr WBC.
   Hope to proceed with tunneled line soon for easier HD.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-6-3**] 11:26 ------

2160-06-04 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per renal, next HD today (wednesday), wanted iron studies & pth. Will
   get epogen with HD.
   -d/c'd heparin sc
   -Heme/onc recs: WBC and plt counts likely related to initial shock . No
   blasts or concerning cells on blood smear, no evidence of acute
   infection. Recommend following blood count. Not consistent with HIT as
   none of the 4 Ts are met.
   -PA/lateral: opacification along L mediastinum and mild blunting of
   costophrenic angles.
   -sent c.diff
   -added banana flakes to tube feeds for loose stools
   -was in a.fib most of the afternoon but spontaneously converted ~7pm.
   -PM CBC drawn peripherally showed 16.7 > 34 < 71. (WBC down from
   yesterday, plt down from yesterday, but Hct up.)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-6-4**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 87 (75 - 98) bpm
   BP: 117/47(65) {87/42(52) - 138/57(72)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.8 kg (admission): 105 kg
   Height: 71 Inch
                  Total In:
                                                                  1,182 mL
                                                                    358 mL
   PO:
                  TF:
                                                                  1,178 mL
                                                                    358 mL
   IVF:
                                                                      4 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,057 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   93 K/uL
   8.6 g/dL
   134 mg/dL
   6.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   76 mg/dL
   98 mEq/L
   135 mEq/L
   26.3 %
   15.6 K/uL
        [image002.jpg]
                             [**2160-5-31**]  04:31 AM
                             [**2160-5-31**]  11:46 AM
                             [**2160-5-31**]  06:49 PM
                             [**2160-6-1**]  04:32 AM
                             [**2160-6-1**]  11:49 AM
                             [**2160-6-1**]  06:15 PM
                             [**2160-6-2**]  04:00 AM
                             [**2160-6-3**]  03:18 AM
                             [**2160-6-3**]  12:45 PM
                             [**2160-6-4**]  04:22 AM
   WBC
   25.9
   22.6
   22.6
   13.9
   16.7
   15.6
   Hct
   29.9
   27.4
   30.4
   26.5
   34.0
   26.3
   Plt
   112
   78
   83
   65
   71
   93
   Cr
   3.0
   2.7
   2.6
   2.4
   3.5
   4.2
   6.6
   Glucose
   124
   107
   115
   227
   271
   140
   129
   155
   134
   Other labs: PT / PTT / INR:12.1/29.2/1.0, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:60/38, Alk Phos / T Bili:111/2.2,
   Amylase / Lipase:182/345, Differential-Neuts:87.7 %, Band:1.0 %,
   Lymph:6.4 %, Mono:4.1 %, Eos:1.7 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:271 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR PA/lateral [**2160-6-3**]:
   FINDINGS: In comparison with the earlier study of this day, the
   previously
   described opacification along the left mediastinum is again seen. There
   is
   poor definition of the left hemidiaphragm, though this could be due to
   technical factors. Mild blunting of the costophrenic angle is seen
   posteriorly, which could reflect pleural thickening or small effusion.
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: Was in NSR for >72 hrs, on metoprolol and digoxin, until 1:30
   PM yesterday when he flipped into Afib with peak HR of 109, from which
   he spontaneously reverted to NSR by 3PM. He remained hemodynamically
   stable throughout.
   - Continue lopressor 100mg tid
   - Hold off amio and observe for recurrence of a fib
   - Dig level rose O/N, cont to hold dig
   - follow daily ECGs
   - hold on coumadin given need to tunneled line placement.  Cont to hold
   heparin for TCP.
   #PUMP/Fluid Balance/ARF: Off neo for >24 hours. TBB positive this
   morning. Will have HD today.
   - follow renal rec
s today for HD and long-term planning
   - consider tunneled line placement given heme/onc impression of WBC
   count as reactive
   - follow i/o's on dialysis
   # Leukocytosis:  Trending down, although CBC results are somewhat
   inconsistent between peripheral vs. picc draws. Heme/Onc suggests that
   leukocytosis is likely reactive and not due to acute infection. Remains
   afebrile.
   - appreciate Heme/Onc rec
   - cont to monitor WBC ct and fever curve
   - all cultures negative so far
   - f/u c.diff sent yesterday
   #Anemia/Thrombocytopenia: Plt count slightly up, Hct down vs peripheral
   draw but even vs last picc draw. Heme/Onc impression is that abnormal
   CBC is multifactorial, related to slow bone marrow recovery from shock
   and reactive changes. They suggest that HIT is not a likely etiology
   but suggest d/c all meds that may contribute to thrombocytopenia.
   - heparin has been dc
   - cont to monitor
   # Shock liver- Almost normal. Now that pt has improved perfusion expect
   recovery
   - f/u LFTs
   #Respiratory Failure: Stable, now on nasal cannula s/p self-extubation.
   Continues to have chest congestion.
   - PA/lateral not suggestive of acute PNA
   - per Heme/Onc, can consider Chest CT for occult source if leukocytosis
   does not resolve
   # Mental status- off sedation now and increasingly alert and
   communicative but still AOx1 and with weakness in R foot dorsiflexion
   and R shoulder extension likely from deconditioning. In setting of
   Liver and Renal failure pt
s poor mental status likely due to decr
   metabolism/excretion of toxic metabolites and sedating drugs. Will
   monitor for improvement.-
   - continue to monitor for improvement
   - OOB to chair today
   - ensure good pain control today
   - Continuing NPO with tube feeds, S/S will reevaluate later this week
   - f/u PT consult
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
   #FEN: NG diet + banana flakes. Follow lytes during dialysis.
   #PPx: pneumoboots, PRN bowel reg.
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-6-4**] 03:35 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-28**] 02:00 PM
   Dialysis Catheter - [**2160-5-30**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 803**].
   I would add the following remarks:
   History
   Maintaining NSR except for 90 min of AF yesterday initially at 120 then
   down to 100 with BP maintained off Neo.
   Appreciate Heme input re elevated WBC and low plt w/o evidence of
   infection or HIT.
   urine output 100/ 24 hrs.
   LFT much better, bili 2.2.
   Physical Examination
   more alert
   still with NGT for nutrition
   Medical Decision Making
   HD today.
   Reconsider tunneled line.
   Hold on Amio and anticoagulation for now but may need to be considered
   if AF keeps recurring.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-6-4**] 13:44 ------

2160-06-05 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Went into AFib at 4:30AM, hemodynamics stable, avg HR 100. remains
   asymptomatic.
   - Had HD yesterday. Scheduled for tunneled line placement today with IR
   - S/S: nasal endoscopy with bedside swallow eval
   - Heparin SQ restarted after Heme/Onc rec's
   - sent c.diff today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-6-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-6-5**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 103 (75 - 109) bpm
   BP: 107/51(65) {106/45(61) - 129/60(76)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.1 kg (admission): 105 kg
   Height: 71 Inch
                  Total In:
                                                                  1,207 mL
                                                                    420 mL
   PO:
                  TF:
                                                                  1,147 mL
   IVF:
   Blood products:
   Total out:
                                                                    275 mL
                                                                      0 mL
   Urine:
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    932 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   6.8 g/dL
   108 mg/dL
   5.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   57 mg/dL
   102 mEq/L
   139 mEq/L
   21.2
   14.0 K/uL
        [image002.jpg] resent Hct 25.6 [**2160-6-5**] AM
                             [**2160-5-31**]  11:46 AM
                             [**2160-5-31**]  06:49 PM
                             [**2160-6-1**]  04:32 AM
                             [**2160-6-1**]  11:49 AM
                             [**2160-6-1**]  06:15 PM
                             [**2160-6-2**]  04:00 AM
                             [**2160-6-3**]  03:18 AM
                             [**2160-6-3**]  12:45 PM
                             [**2160-6-4**]  04:22 AM
                             [**2160-6-5**]  03:38 AM
   WBC
   22.6
   22.6
   13.9
   16.7
   15.6
   14.0
   Hct
   27.4
   30.4
   26.5
   34.0
   26.3
   21.2
   Plt
   78
   83
   65
   71
   93
   127
   Cr
   2.7
   2.6
   2.4
   3.5
   4.2
   6.6
   5.3
   Glucose
   107
   115
   227
   271
   140
   129
   155
   134
   108
   Other labs: PT / PTT / INR:12.5/32.2/1.1, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:60/38, Alk Phos / T Bili:111/2.2,
   Amylase / Lipase:182/345, Differential-Neuts:87.7 %, Band:1.0 %,
   Lymph:6.4 %, Mono:4.1 %, Eos:1.7 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:271 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Dig 2.5, PTH 39, Iron: 26 calTIBC: 220
   Ferritn: 346 TRF: 169
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: Mostly in NSR, on metoprolol and digoxin, but had 90 min Afib
   yesterday and this AM in Afib 100-110 since 4:30 AM. Remains
   hemodynamically stable off pressors.
   - Continue lopressor 100mg tid
   - Consider amiodarone today if remains in fib
   - Dig level remains elevated, hold dig today
   - start systemic anticoagulation (coumadin) after tunneled line
   placement today
   #PUMP/Fluid Balance/ARF: Neo has been dc'd. Had HD yesterday. Tunneled
   line placement today.
   - follow renal rec
s today for HD and long-term planning
   - follow i/o's on dialysis
   # Leukocytosis:  Trending down, afebrile. Per Heme/Onc leukocytosis is
   likely reactive and not due to acute infection. Repeat C.diff has not
   been sent due to difficulty extracting stool from flexiseal.
   - appreciate Heme/Onc rec
   - cont to monitor WBC ct and fever curve
   - all cultures negative so far
   - per Heme/Onc, if leukocytosis does not resolve, consider chest CT for
   occult infection
   #Anemia/Thrombocytopenia: Plt count rising but Hct down today, 26 ->
   21. Heme/Onc impression is that abnormal CBC is multifactorial, related
   to slow bone marrow recovery from shock and reactive changes. Heparin
   sq was restarted yesterday.
   - guaiac negative, no signs of bleeding on exam
   - check PM crit
   - transfuse if hct drops below 21
   - T&C x2
   # Shock liver- Almost normal. Now that pt has improved perfusion expect
   recovery
   - f/u LFTs this AM
   # Mental status- off sedation now and increasingly alert and
   communicative but still AOx1 and with weakness in R foot dorsiflexion
   likely from deconditioning. R arm weakness has improved.
   - continue to monitor for improvement
   - OOB to chair today
   - ensure good pain control today
   - f/u PT consult
   #Respiratory Failure: Stable, now on nasal cannula s/p self-extubation.
   Continues to have chest congestion.
   # CORONARIES: CAD mild - 1V dz of RCA
   - now on ASA, BB
    #FEN: NPO this AM for procedure, otherwise NPO with tube feeds, S/S
   will reevaluate later this week with nasal endoscopy. Follow lytes
   during dialysis.
   #PPx: pneumoboots/SC heparin, PRN bowel reg.
   #Access: PICC
   CODE: FULL
   Dispo: CCU for now but consider straight transfer to rehab (offers
   available) tomorrow, [**2160-6-6**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-28**] 02:00 PM
   Dialysis Catheter - [**2160-5-30**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8412**].
   I would add the following remarks:
   History
   Continues to slowly gain strength.
   No significant urine output.
   Medical Decision Making
   Tunneled line today.
   Then start coumadin for continued episodes of AF.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-6-5**] 16:25 ------

2160-06-06 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - s/p tunneled line placement, no complications
   - returned to NSR spontaneously
   - repeat Hct was stable 26.5
   - Restarted heparin gtt/Coumadin for anticoagulation
   - video swallow: cont. TF for primary nutrition/meds, pleasure feeds
   with moist purees with 1:1 supervision, ice chips, will f/u next week
   in hopes of advancing
   - plan for D/C today to LTAC following HD session in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-6-5**] 04:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-6-6**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 85 (77 - 104) bpm
   BP: 124/51(69) {104/45(62) - 140/61(77)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.1 kg (admission): 105 kg
   Height: 71 Inch
                  Total In:
                                                                    720 mL
                  PO:
                  TF:
                                                                    300 mL
   IVF:
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   124 K/uL
   7.8 g/dL
   108 mg/dL
   5.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   57 mg/dL
   102 mEq/L
   139 mEq/L
   24.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2160-6-1**]  04:32 AM
                             [**2160-6-1**]  11:49 AM
                             [**2160-6-1**]  06:15 PM
                             [**2160-6-2**]  04:00 AM
                             [**2160-6-3**]  03:18 AM
                             [**2160-6-3**]  12:45 PM
                             [**2160-6-4**]  04:22 AM
                             [**2160-6-5**]  03:38 AM
                             [**2160-6-5**]  07:42 AM
                             [**2160-6-6**]  06:02 AM
   WBC
   22.6
   22.6
   13.9
   16.7
   15.6
   14.0
   14.6
   11.4
   Hct
   27.4
   30.4
   26.5
   34.0
   26.3
   21.2
   25.6
   24.7
   Plt
   78
   83
   65
   71
   93
   127
   121
   124
   Cr
   2.6
   2.4
   3.5
   4.2
   6.6
   5.3
   Glucose
   227
   271
   140
   129
   155
   134
   108
   Other labs: PT / PTT / INR:12.5/32.2/1.1, CK / CKMB /
   Troponin-T:524/8/1.21, ALT / AST:50/39, Alk Phos / T Bili:107/1.8,
   Amylase / Lipase:182/345, Differential-Neuts:87.7 %, Band:1.0 %,
   Lymph:6.4 %, Mono:4.1 %, Eos:1.7 %, Fibrinogen:187 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:242 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: Fluoro-guided Line Placement ([**6-5**]): CONCLUSION: Uncomplicated
   conversion of right-sided IJ catheter to tunneled
   15.5 French 23 cm hemodialysis catheter. Tips located in the right
   atrium and
   the catheter is ready to use.
   Video swallow ([**6-5**]):
   IMPRESSION: Aspiration and penetration of nectar liquids. Penetration
   of thin liquids during chin tuck. For additional details, including
   treatment and recommendations, please refer to speech and swallow
   pathology note from the same day.
   Microbiology: C.diff ([**6-5**]): Negative
   Assessment and Plan
   60yoM with dilated cardiomyopathy (EF 15%) s/p cardiogenic shock and
   rapid Aflutter now s/p AF ablation and s/p impella device, now on
   dialysis for ATN and s/p self-extubation.
   #RHYTHM: NSR since procedure yesterday morning, on metoprolol and
   digoxin (held for high level). Remains hemodynamically stable off
   pressors. Restarted coumadin post-procedure.
   - Continue lopressor 100mg tid
   - Follow up dig level today, 0.125mg Digoxin per week.
    #PUMP/Fluid Balance/ARF: HD today.
   - follow renal rec
s for long-term HD planning
   - follow i/o's on dialysis
    # Leukocytosis:  Continues to trend down, afebrile. Repeat C.diff
   negative.
   - cont to monitor WBC ct and fever curve
    #Anemia/Thrombocytopenia: Plt count rising, Hct stable today. Heme/Onc
   impression is that abnormal CBC is multifactorial, related to slow bone
   marrow recovery from shock and reactive changes.
    # Shock liver- Almost normal. Now that pt has improved perfusion
   expect recovery
    # Mental status/Weakness- increasingly alert and communicative but
   still AOx1 and with weakness in R foot dorsiflexion likely from
   deconditioning. R arm weakness has improved. PT recommends rehab.
   - continue to monitor for improvement
   - OOB to chair today
    #Respiratory Failure: Stable on room air. Continues to have chest
   congestion.
   # CORONARIES: CAD mild - 1V dz of RCA
   -          now on ASA, BB
   -          Consider restarting statin
   #FEN: Continue tube feeds for nutrition with pleasure feeds under
   supervision. Follow lytes during dialysis.
   #PPx: pneumoboots/SC heparin, PRN bowel reg. Can d/c banana flakes
   today.
   #Access: PICC
   CODE: FULL
   Dispo: To LTAC today, going to [**Hospital1 997**] at 13:30.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-28**] 02:00 PM
   Dialysis Catheter - [**2160-6-5**] 12:50 PM
   Prophylaxis:
   DVT: Heparin SC, on Coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8374**].
   I would add the following remarks:
   History
   Failed video swallow so still with feeding tube for most of nutrition.
   Urine output better 250/24 hrs.  Eventual renal recovery expected.
   On HD today thru new tunneled line.
   Mostly in NSR.
   LFTs back to normal.
   Physical Examination
   more alert.
   Medical Decision Making
   OK for transfer to rehab today.
   HD continues.
   Cardiology f/u arranged with Drs [**Last Name (STitle) **] and [**Name5 (PTitle) **].
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2160-6-6**] 11:15 ------